US09238644B2
(a) 1-(3-Bromophenyl)cyclopropanecarboxamide (A58)
Ammonium carbonate (7.97 g 83.0 mmol) was added to a suspension of 1-(3-bromophenyl)cyclopropylacetic acid (2.00 g, 8.30 mmol), HOBt (1.68 g, 12.4 mmol) and EDCl.HCl (2.39 g, 12.4 mmol) in Et3N (5 mL) and DMF (25 mL) and the mixture was stirred at room temperature overnight. EtOAc (150 mL) was added and the organic layer was washed with sat. NaHCO3 solution (100 mL), 0.5 M citric acid solution (3×100 mL), water (100 mL), brine (50 mL) and dried (Na2SO4). The volatiles were removed in vacuo to yield the title compound A58 as a white solid (1.78 g, 89%). LCMS-A: rt 5.807 min; m/z 241 [M+H]+.

reactant | Ammonium carbonate | 83.0 mmol, 7.97 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | 1-(3-bromophenyl)cyclopropylacetic acid | 8.30 mmol, 2.00 g | BrC=1C=C(C=CC1)C1(CC1)CC(=O)O | C11H11BrO2
reactant | HOBt | 12.4 mmol, 1.68 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 12.4 mmol, 2.39 g | Cl | ClH
solvent | Et3N | 5 mL | CCN(CC)CC | C6H15N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 1-(3-Bromophenyl)cyclopropanecarboxamide | BrC=1C=C(C=CC1)C1(CC1)C(=O)N | C10H10BrNO
